US04015016
1,3-Bis[(3,5-dibromo-2-ethoxybenzylidene) amino]guanidine:
A mixture was prepared by dissolving 7.9 grams (0.063 mole) of diaminoguanidine, hydrochloride in 60 milliliters of lukewarm water and this mixture was added to a solution of 38.2 grams (0.125 mole) of 3,5-dibromo-2-ethoxybenzaldehyde dissolved in 500 milliliters of ethanol. To this mixture was added a solution of 8 milliliters of concentrated hydrochloric acid in 80 milliliters of ethanol. The mixture was heated at the reflux temperature for 10 minutes and thereafter cooled to 20° C. The solid 1,3-bis[(3,5-dibromo-2-ethoxybenzylidene)amino]guanidine, hydrochloride product was recovered by filtration under reduced pressure, washed with ethanol and dried. The product was recovered in a yield of 20 grams (45 percent of theoretical) and melted at 188°-190° C.

reactant | diaminoguanidine, hydrochloride | 0.063 mole, 7.9 grams | Cl.NNC(NN)=N
reactant | 3,5-dibromo-2-ethoxybenzaldehyde | 0.125 mole, 38.2 grams | BrC=1C(=C(C=O)C=C(C1)Br)OCC | C9H8Br2O2
reactant | hydrochloric acid | 8 milliliters | Cl | ClH
solvent | water | 60 milliliters | O | H2O
solvent | ethanol | 500 milliliters | C(C)O | C2H6O
solvent | ethanol | 80 milliliters | C(C)O | C2H6O
product | 1,3-Bis[(3,5-dibromo-2-ethoxybenzylidene) amino]guanidine | BrC=1C(=C(C=NNC(=N)NN=CC2=C(C(=CC(=C2)Br)Br)OCC)C=C(C1)Br)OCC | C19H19Br4N5O2
